US09085555B2
2-Cyclopropyl-4-methyl-5-nitropyridine
Potassium cyclopropyltrifluoroborate (857 mg, 5.79 mmol), 2-chloro-4-methyl-5-nitropyridine (500 mg, 2.90 mmol), Pd(OAc)2 (26 mg, 0.12 mmol), Cs2CO3 (2.83 g, 8.69 mmol), and n-butyl-di-adamantylphosphine (62 mg, 0.17 mmol) were charged into a capped vial. The vial was purged with argon and then sealed with a septum cap. Toluene/H2O 10:1 (11 mL) was added by syringe and the mixture was heated at 100° C. for 16 h. More potassium cyclopropyltrifluoroborate (857 mg, 5.79 mmol) was added to the mixture which was further heated at 100° C. for 72 h. The mixture was diluted with CH2Cl2 and filtered through a pad of Celite. The filtrate was dried (Phase separator) and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 5-100% CH3CN/H2O/30 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA). MS (LC-MS): 179 [M+H]+, tR (HPLC conditions c): 4.26 min.

reactant | Potassium cyclopropyltrifluoroborate | 5.79 mmol, 857 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | 2-chloro-4-methyl-5-nitropyridine | 2.90 mmol, 500 mg | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | Cs2CO3 | 8.69 mmol, 2.83 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | n-butyl-di-adamantylphosphine | 0.17 mmol, 62 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | potassium cyclopropyltrifluoroborate | 5.79 mmol, 857 mg | C1(CC1)[B-](F)(F)F.[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.12 mmol, 26 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Cyclopropyl-4-methyl-5-nitropyridine | C1(CC1)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C9H10N2O2
